US06545108B1
A solution of 1,4-bis-(4-tert-butyl-phenyl)-butane-1,4-dione (377 mg, 1.08 mmol) in toluene (3 mL) was treated with hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester (212 mg, 1.18 mmol) and p-toluene sulfonic acid (11.3 mg). The resulting solution was heated to reflux under Ar for 1.5 h, then cooled to rt and concentrated in vacuo to provide crude [2,5-Bis-(4-tert-butyl-phenyl)-pyrrol-1-yl]-carbamic acid 2-trimethylsilanyl-ethyl ester. The residue was not purified, but was deprotected immediately as follows.

reactant | 1,4-bis-(4-tert-butyl-phenyl)-butane-1,4-dione | 1.08 mmol, 377 mg | C(C)(C)(C)C1=CC=C(C=C1)C(CCC(=O)C1=CC=C(C=C1)C(C)(C)C)=O | C24H30O2
reactant | hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester | 1.18 mmol, 212 mg | C[Si](CCOC(=O)NN)(C)C | C6H16N2O2Si
reactant | p-toluene sulfonic acid | 11.3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | [2,5-Bis-(4-tert-butyl-phenyl)-pyrrol-1-yl]-carbamic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(NN1C(=CC=C1C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C)=O)(C)C | C30H42N2O2Si
